US04596819
A stirred suspension of 1.52 g (0.0044 mol) of (±)-phenylmethyl [1-[(2-amino-2-oxoethoxy)methyl]-2-phenylethyl]-carbamate and 0.35 g of 20% palladium on carbon in a 100 ml of methanol is exposed to hydrogen gas for 15 minutes, the suspension is purged with nitrogen gas, filtered, and the solvent evaporated in vacuo at 30° C. The residue is dissolved in 100 ml of dichloromethane, the solution is cooled to 0° C. and 1.196 g (0.0048 mol) of carbobenzyloxyproline, 0.734 g (0.0048 mol) of 1-hydroxybenzotriazole and 0.99 g (0.0048 mol) of dicyclohexylcarbodiimide are added. The mixture is allowed to reach room temperature and stirred for 14 hours, filtered, the solvent evaporated in vacuo, and the residue dissolved in 200 ml of dichloromethane and washed successively with a 5% aqueous solution of sodium carbonate, 2×200 ml, 10% aqueous solution of citric acid, 2×200 ml and a saturated aqueous solution of sodium chloride, 2×200 ml. The dichloromethane layer is separated, dried over sodium sulfate, evaporated in vacuo and the residue purified by chromatography using silica gel and eluting with dichloromethane-methanol (95:5) to give (2S)-phenylmethyl 2-[[[1-[(2-amino-2-oxoethoxy)methyl]-2-phenylethyl]amino]carbonyl]-1-pyrrolidinecarboxylate (center on chain in 2 position is a mixture of isomers), 0.8 g; mp 137°-142°; [α]D25 -45.1° (c 1.09, methanol).

reactant | (±)-phenylmethyl [1-[(2-amino-2-oxoethoxy)methyl]-2-phenylethyl]-carbamate | 0.0044 mol, 1.52 g | NC(COCC(CC1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C19H22N2O4
reactant | hydrogen | [H][H] | H2
reactant | carbobenzyloxyproline | 0.0048 mol, 1.196 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | 1-hydroxybenzotriazole | 0.0048 mol, 0.734 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.0048 mol, 0.99 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | (2S)-phenylmethyl 2-[[[1-[(2-amino-2-oxoethoxy)methyl]-2-phenylethyl]amino]carbonyl]-1-pyrrolidinecarboxylate | NC(COCC(CC1=CC=CC=C1)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C24H29N3O5
